US07202364B2
To a solution of 1.70 g of 3-chloro-2-naphthoic acid (8.23 mmol) in 50 mL of 1,4-dioxane is added 2.3 mL of triethylamine (16.45 mmol) followed by 2.7 mL of DPPA (12.34 mmol). The mixture is stirred for 2 hours at room temperature under an atmosphere of nitrogen. Then 4.8 mL (82.3 mmol) of EtOH is added and the reaction is heated to reflux and stirred for an additional 2 hours. The solvents are evaporated in vacuo and the remaining residue is dissolved in 50 mL of EtOAc and washed with 20 mL of 5% aqueous citric acid, 20 mL of 5% Na2CO3 and dried over MgSO4. The solvents are evaporated to give a residue that is purified by flash chromatography on silica gel (50% CH2Cl2/hexane) to give N-(3-chloro-2-naphthyl)carbamic acid ethyl ester as a yellow oil.

reactant | 3-chloro-2-naphthoic acid | 8.23 mmol, 1.70 g | ClC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H7ClO2
reactant | triethylamine | 16.45 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | DPPA | 12.34 mmol, 2.7 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | EtOH | 82.3 mmol, 4.8 mL | CCO | C2H6O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(3-chloro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=CC2=CC=CC=C2C=C1Cl)=O | C13H12ClNO2
